US05614544
(E)-4-[2-(5-Methyl-2-phenyl-4-oxazolyl)vinyl]cinnamaldehyde and 2,4oxazolidinedione were reacted in the same manner as in Reference Example 28 to yield (E,E)-5-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)vinyl]cinnamylidene]2,4-oxazolidinedione, which was then recrystallized from chloroform-methanol to yield yellow needles having a melting point of 274°-275° C.

reactant | (E)-4-[2-(5-Methyl-2-phenyl-4-oxazolyl)vinyl]cinnamaldehyde | CC1=C(N=C(O1)C1=CC=CC=C1)C=CC1=CC=C(/C=C/C=O)C=C1 | C21H17NO2
reactant | 2,4oxazolidinedione | O1C(NC(C1)=O)=O | C3H3NO3
product | (E,E)-5-[4-[2-(5-methyl-2-phenyl-4-oxazolyl)vinyl]cinnamylidene]2,4-oxazolidinedione | CC1=C(N=C(O1)C1=CC=CC=C1)C=CC1=CC=C(/C=C/C=C/2\C(NC(O2)=O)=O)C=C1 | C24H18N2O4
